US04883815
31.4 g (0.143 mol) of 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline dissolved in 300 ml of methylene chloride are added at 0° to a solution of 36.0 g (0.143 mol) of 4-phthalimidobutyryl chloride in 360 ml of methylene chloride and the mixture is stirred at room temperature for 1 hour. The solution is concentrated, extracted with methylene chloride and aqueous sodium hydrogen carbonate solution, dried with magnesium sulfate and the solvent is distilled in a vacuum. Extractive crystallization with acetone gives 8-chloro-1,2,3,4,5,6-hexahydro-4-(4-phthalimidobutyryl)benzo[f]quinoline as white crystals with melting point 182°-183°.

reactant | 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | 0.143 mol, 31.4 g | ClC1=CC2=C(C=3CCCNC3CC2)C=C1 | C13H14ClN
reactant | 4-phthalimidobutyryl chloride | 0.143 mol, 36.0 g | C1(C=2C(C(N1CCCC(=O)Cl)=O)=CC=CC2)=O | C12H10ClNO3
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 360 ml | C(Cl)Cl | CH2Cl2
product | 8-chloro-1,2,3,4,5,6-hexahydro-4-(4-phthalimidobutyryl)benzo[f]quinoline | ClC1=CC2=C(C=3CCCN(C3CC2)C(CCCN2C(C=3C(C2=O)=CC=CC3)=O)=O)C=C1 | C25H23ClN2O3
